US05302720
Reaction of 2-amino-5-fluorobiphenyl (7.8 g) with thiophosgene (7.2 g) in a mixture of dioxan (15 ml) and water (60 ml) at ambient temperature for 2 hours yielded 5-fluoro-2-biphenylylisothiocyanate as a brown oil.

reactant | 2-amino-5-fluorobiphenyl | 7.8 g | NC1=C(C=C(C=C1)F)C1=CC=CC=C1 | C12H10FN
reactant | thiophosgene | 7.2 g | C(=S)(Cl)Cl | CCl2S
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 60 ml | O | H2O
product | 5-fluoro-2-biphenylylisothiocyanate | FC1=CC=C(C(=C1)C1=CC=CC=C1)N=C=S | C13H8FNS
